US07655666B2
A solution of 2-methyl-5-propionyl-4-trifluoromethyl-benzoic acid methyl ester (180 mg, 0.65 mmol) in THF (2.6 mL) was treated with (CCl3O)2CO (65.3 mg, 0.22 mmol) at r.t. under argon. The mixture was stirred for 15 min and Et3N (91 μL, 0.65 mmol) was added. The suspension was stirred for another 3 h and CH3SO2NHNH2 (73.5 mg, 0.65 mmol) was added. After 20 h, an aqueous solution of sodium hydroxide (1N, 0.87 mL) was added and the yellow suspension was stirred for 4 h at r.t. The pH of the mixture was then adjusted to 4-5 with an aqueous solution of hydrochloric acid (1N), and it was then diluted with EtOAc. The layers were separated and the organic phase was washed once with water, once with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude product was recrystallized in DCM to give N-(2,4-dioxo-6-propionyl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (195 mg, 0.51 mmol, 79%) as a white solid, m.p. 234-236° C., ESI-MS: m/z 380 [M+H]+.

reactant | 2-methyl-5-propionyl-4-trifluoromethyl-benzoic acid methyl ester | 0.65 mmol, 180 mg | COC(C1=C(C=C(C(=C1)C(CC)=O)C(F)(F)F)C)=O | C13H13F3O3
reactant | Et3N | 0.65 mmol, 91 μL | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 0.65 mmol, 73.5 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | sodium hydroxide | 1N, 0.87 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 2.6 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2,4-dioxo-6-propionyl-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 0.51 mmol, 195 mg, 79% | O=C1NC2=CC(=C(C=C2C(N1NS(=O)(=O)C)=O)C(CC)=O)C(F)(F)F | C13H12F3N3O5S
